US09034880B2
Tetra butyl ammonium chloride (0.026 g, 0.094 mmol) was taken in 15 ml, 50% aq. NaOH solution (7 ml) and stirred for 15 minutes at RT. 8-bromo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.500 gm, 1.89 mmole) was added and further stirred for 10 min. at RT. 2-methyl-5-vinylpyridine (0.247 gm, 2.08 mmole) was added and reaction mixture was heated at 100° C. for 12-15 hrs. The reaction mixture was cooled at RT, extracted with ethyl acetate, dried over anhydrous sodium sulphate, concentrated and purified by Reverse Phase HPLC to get 63 mg 8-bromo-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole as TFA Salt.

reactant | 8-bromo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.89 mmole, 0.500 gm | BrC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13BrN2
reactant | 2-methyl-5-vinylpyridine | 2.08 mmole, 0.247 gm | CC1=NC=C(C=C1)C=C | C8H9N
catalyst | Tetra butyl ammonium chloride | 0.094 mmol, 0.026 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NaOH | 15 ml | [OH-].[Na+]
product | 8-bromo-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 63 mg | BrC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C | C20H22BrN3
